US09029560B2
Preparation of tert-butyl (cyclopropylmethyl)(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)carbamate (CB66)
The title compound was prepared as described in Example 102 using tert-butyl 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethylcarbamate (C50) and cyclopropylmethyl bromide and isolated as a clear oil (0.155 g, 96%): 1H NMR (400 MHz, CDCl3) δ 8.56 (s, 1H), 8.16-8.07 (m, 2H), 7.84-7.77 (m, 2H), 7.39 (dq, J=8.0, 0.9 Hz, 2H), 7.31 (s, 2H), 3.50 (t, J=7.6 Hz, 2H), 3.17-2.86 (m, 4H), 1.48 (s, 9H), 0.87 (ddd, J=11.2, 9.0, 6.7 Hz, 1H), 0.49 (d, J=8.0 Hz, 2H), 0.21 (s, 2H); 19F NMR (376 MHz, CDCl3) δ −58.03; ESIMS m/z 503 ([M+H]+).

reactant | tert-butyl 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethylcarbamate | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(CCNC(OC(C)(C)C)=O)C=C1)(F)F | C22H23F3N4O3
reactant | cyclopropylmethyl bromide | C1(CC1)CBr | C4H7Br
product | tert-butyl (cyclopropylmethyl)(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)carbamate | C1(CC1)CN(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C26H29F3N4O3
